US07576135B2
2-(4-chlorophenyl)-1-hydrazinecarboxylic acid phenyl ester
(4-Chlorophenyl)hydrazine hydrochloride (3.00 g) was added to a mixture of tetrahydrofuran (50 mL), diethyl ether (50 mL), and saturated aqueous sodium hydrogencarbonate. The organic layer was separated, followed by drying over sodium sulfate anhydrate and concentrating, to thereby give (4-chlorophenyl)hydrazine as a brown solid. The solid was dissolved in benzene (15 mL), and the solution was heated under reflux. Under refluxing, diphenyl carbonate (5.22 g) dissolved in benzene (8.0 mL) was added dropwise thereto over 30 minutes or more. The mixture was refluxed for 19 hours, allowed to cool to room temperature, and concentrated. Benzene (15 mL) was added thereto, and the mixture was slurried by ultrasonic wave. Hexane (50 mL) was added thereto, and the resultant mixture was stirred for 30 minutes. The insoluble material was recoverd by filtration, followed by drying, to thereby give the title compound (1.05 g).

reactant | (4-Chlorophenyl)hydrazine hydrochloride | 3.00 g | Cl.ClC1=CC=C(C=C1)NN
reactant | tetrahydrofuran | 50 mL | O1CCCC1 | C4H8O
reactant | sodium hydrogencarbonate | C(O)([O-])=O.[Na+]
reactant | diethyl ether | 50 mL | C(C)OCC | C4H10O
product | 2-(4-chlorophenyl)-1-hydrazinecarboxylic acid phenyl ester | 1.05 g | C1(=CC=CC=C1)OC(=O)NNC1=CC=C(C=C1)Cl | C13H11ClN2O2
